US04699995
Diethyl 2-(2-bromobenzyl)propan-1,3-dioate
Diethyl malonate (77 g, 0.48 mol) was added to a stirred solution of sodium (10.2 g, 0.425 mol) in ethanol (800 ml) followed by 2-bromobenzyl bromide (100 g, 0.40 mol). Sodium bromide began to separate towards the end of the addition and the mixture became warm. The reaction was completed by refluxing on a steam bath for 3 hours and then cooling overnight. The bulk of the solvent was removed in vacuo, water was added and the product extracted into ether. After drying (CaCl2) and evaporation the product was distilled to give 93.28 g (71%) of material of bp0.2 130° C. (lit bp0.004 115°-120° C., F. G. Holliman and F. G. Mann J. Chem. Soc. 9, [1960]).

reactant | Diethyl malonate | 0.48 mol, 77 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 0.425 mol, 10.2 g | [Na] | Na
reactant | 2-bromobenzyl bromide | 0.40 mol, 100 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | Sodium bromide | [Br-].[Na+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | Diethyl 2-(2-bromobenzyl)propan-1,3-dioate | 93.28 g, 71% | BrC1=C(CC(C(=O)OCC)C(=O)OCC)C=CC=C1 | C14H17BrO4
